US06946005B2
Synthesis of 1-(3-Methyl-4-nitro-phenyl)-pyrrolidin-3-ol (1)
In a three necked flask, 38.78 g of 5-fluoro-2-nitrotoluene (0.25 mol), 41.4 g of potassium carbonate (0.3 mol) and 200 ml of N-methylpyrrolidinone were mixed. 26.13 g of 3-pyrrolidinol (0.3 mol) were added to this mixture. The heterogeneous mixture was agitated at ambient temperature for 12 hours. The reacting mixture was then poured on ice water. A yellow powder was then obtained. The powder was then filtered off and rinsed with water. After drying under vacuum with P2O5, 55.56 g of a yellow solid were obtained (yield) (95%).

reactant | 5-fluoro-2-nitrotoluene | 0.25 mol, 38.78 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | potassium carbonate | 0.3 mol, 41.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-pyrrolidinol | 0.3 mol, 26.13 g | N1CC(CC1)O | C4H9NO
solvent | N-methylpyrrolidinone | 200 ml | CN1C(CCC1)=O | C5H9NO
product | 1-(3-Methyl-4-nitro-phenyl)-pyrrolidin-3-ol | 55.56 g | CC=1C=C(C=CC1[N+](=O)[O-])N1CC(CC1)O | C11H14N2O3
